US04511574
Into 75 ml of dry ethyl acetate, were added 7.3 g of anhydrous potassium thiocyanate and 15.7 g of 2,2,2-trichloroethyl chloroformate. The mixture was stirred at 60° C. for 1.5 hours. The reaction mixture was cooled in ice water, followed by an addition of an aqueous ammonia solution (29%) to render the reaction mixture alkaline. The solvent was removed under reduced pressure. The residue was treated with a water/methanol mixed solvent and the reaction product was obtained in a powdery form through filtration. It was then washed thoroughly with water to obtain 14.5 g of 2,2,2-trichloroethyl N-thiocarbamoylcarbamate.

reactant | potassium thiocyanate | 7.3 g | [S-]C#N.[K+]
reactant | 2,2,2-trichloroethyl chloroformate | 15.7 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | ammonia | N | H3N
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 2,2,2-trichloroethyl N-thiocarbamoylcarbamate | 14.5 g | C(N)(=S)NC(OCC(Cl)(Cl)Cl)=O | C4H5Cl3N2O2S
